US06969711B2
Sodium perborate tetrahydrate (640 mg, 4.16 mmol) was added to a solution of 2-methylthio-6-nitrophenol (120 mg, 0.648 mmol) in acetic acid (6 ml) and the mixture was stirred at 55° C. for4 hours. The residue obtained by concentrating the reaction solution was purified by a silica gel column chromatography (50 g of silica gel; developing solvent, chloroform→chloroform:methanol=50:1→chloroform:methanol=4:1), the resulting residue was suspended in acetic acid (12 ml), under cooling with ice water then zinc (450 mg, 6.88 mmol) and concentrated hydrochloric acid (0.2 ml) were added thereto and the mixture was returned to room temperature and stirred for 20 minutes. The reaction solution was neutralized by adding a saturated sodium bicarbonate solution thereto and extracted with chloroform. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate and the solvent was evaporated. The residue was purified by a preparative thin layer chromatography (developing solvent, chloroform:methanol=10:1) to provide 26 mg (yield 21%) of 2-amino-6-methanesulfonylphenol as brown oil.

reactant | Sodium perborate tetrahydrate | 4.16 mmol, 640 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 2-methylthio-6-nitrophenol | 0.648 mmol, 120 mg | CSC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO3S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6.88 mmol, 450 mg | [Zn] | Zn
product | 2-amino-6-methanesulfonylphenol | 26 mg, yield 21% | NC1=C(C(=CC=C1)S(=O)(=O)C)O | C7H9NO3S
